US05962458
A mixture of 6-methoxy-7-(2-(N-methyl-N-(6-methylpyrimidin-4-yl)amino)ethoxy)-3,4-dihydroquinazolin-4-one (250 mg, 0.73 mmol) in thionyl chloride (5 ml) and DMF (0.1 ml) was heated at reflux for 1 hour. The mixture was diluted with toluene and the volatiles were removed by evaporation. The residue was triturated with methylene chloride/ether, the solid was collected by filtration and dried under vacuum to give 4-chloro-6-methoxy-7-(2-(N-methyl-N-(6-methylpyrimidin-4-yl)amino)ethoxy)quinazoline hydrochloride (260 mg, 90%).

reactant | 6-methoxy-7-(2-(N-methyl-N-(6-methylpyrimidin-4-yl)amino)ethoxy)-3,4-dihydroquinazolin-4-one | 0.73 mmol, 250 mg | COC=1C=C2C(NC=NC2=CC1OCCN(C1=NC=NC(=C1)C)C)=O | C17H19N5O3
reactant | thionyl chloride | 5 ml | S(=O)(Cl)Cl | Cl2OS
solvent | DMF | 0.1 ml | CN(C)C=O | C3H7NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-chloro-6-methoxy-7-(2-(N-methyl-N-(6-methylpyrimidin-4-yl)amino)ethoxy)quinazoline hydrochloride | 260 mg, 90% | Cl.ClC1=NC=NC2=CC(=C(C=C12)OC)OCCN(C1=NC=NC(=C1)C)C | InChI=1S/C17H18ClN5O2.ClH/c1-11-6-16(21-9-19-11)23(2)4-5-25-15-8-13-12(7-14(15)24-3)17(18)22-10-20-13;/h6-10H,4-5H2,1-3H3;1H
